US07981893B2
6-(4-Hydroxyphenyl)-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride. 6-Bromo-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one (300 mg, 0.95 mmol), [4-(N-methylaminocarbonyl)phenyl]boronic acid (205 mg, 1.15 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (80 mg, 0.09 mmol) and potassium phosphate (805 mg, 3.8 mmol) in DMF (30 mL) and water (8 mL) were reacted according to General Procedure C. The product was purified by reverse-phase semi-preparatory HPLC (30-100% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min). The desired fractions were concentrated, treated with 4N hydrochloric acid in diethylether (few drops) and sonicated. This procedure was repeated twice more to provide 6-(4-hydroxyphenyl)-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one (67 mg, 16%) as a colorless solid hydrochloride salt. 1H NMR (400 MHz, CD3OD-d6) 8.38 (s, 1H), 8.84 (d, J=8.4, 2H), 7.44 (s, 1H), 7.39 (d, J=8.4, 2H), 4.45 (t, J=5.6, 2H); 4.07 (d, J=12.4, 2H), 3.82 (d, J=12.4, 2H), 3.69-3.64 (m, 4H); MS (ESI) m/z 342.15 [M+1]+.

reactant | 6-(4-Hydroxyphenyl)-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one hydrochloride | Cl.OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CCN2CCOCC2
reactant | 6-Bromo-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | 0.95 mmol, 300 mg | BrC1=CN=C2C(=N1)N(C(N2)=O)CCN2CCOCC2 | C11H14BrN5O2
reactant | [4-(N-methylaminocarbonyl)phenyl]boronic acid | 1.15 mmol, 205 mg | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | potassium phosphate | 3.8 mmol, 805 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 8 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.09 mmol, 80 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4-hydroxyphenyl)-1-(2-morpholinoethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | 67 mg, 16% | OC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C(N2)=O)CCN2CCOCC2 | C17H19N5O3
